* C:\Users\Arumugam\Documents\LTspiceXVII\Draft1.asc
M1 N001 IN OUT OUT PMOS
M2 OUT IN 0 0 NMOS
V1 N001 0 1.8
V2 IN 0 PULSE(0 1 0 0.01 0.01 1 2 20)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Arumugam\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20
.backanno
.end
